US05077409
N-[3-(Bromomethyl)phenyl]-3-(tetradecyloxy) benzeneacetamide
To a solution of 3.3 g of N-[3-(hydroxymethyl)phenyl]-3-(tetradecyloxy)benzeneacetamide in 60 ml of tetrahydrofuran is added 1.11 g of methanesulfonyl chloride and 978.95 mg of triethylamine followed by stirring at ambient temperature for 2 hours. Added 6.32 g of lithium bromide and stirred for an additional 2.5 hours. The reaction is poured into a mixture of saturated sodium chloride and saturated sodium bicarbonate then extracted with ether. The organic layer is dried and evaporated to give the desired product as a white solid, m.p. 104°-106° C.

reactant | N-[3-(hydroxymethyl)phenyl]-3-(tetradecyloxy)benzeneacetamide | 3.3 g | OCC=1C=C(C=CC1)NC(CC1=CC(=CC=C1)OCCCCCCCCCCCCCC)=O | C29H43NO3
reactant | methanesulfonyl chloride | 1.11 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | lithium bromide | 6.32 g | [Br-].[Li+]
reactant | sodium chloride | [Cl-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 978.95 mg | C(C)N(CC)CC | C6H15N
product | N-[3-(Bromomethyl)phenyl]-3-(tetradecyloxy) benzeneacetamide | BrCC=1C=C(C=CC1)NC(CC1=CC(=CC=C1)OCCCCCCCCCCCCCC)=O | C29H42BrNO2
